*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXE630ARA820MJA0G
*//   Date        : 2021/01/05
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2021 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXE630ARA820MJA0G_20deg-C 1 2

C1 4 2 6.42e-05
C2 5 2 7.30e-06
C3 6 2 3.04e-06
R1 3 4 1.21e-02
R2 4 5 6.04e-02
R3 5 6 1.30e+00
L1 1 3 4.30e-09

.ENDS
*$
